US07112593B2
b) Cis-2,3-bis(methanesulfonyloxymethyl)oxirane
To a mixture of 2.3 g of cis-oxirane-2,3-dimethanol and 200 ml of ethyl acetate was added 9.3 ml of triethylamine and then 4.3 ml of methanesulfonyl chloride under ice-cooling, followed by stirring at the same temperature for 4 hours. The reaction mixture was filtered through silica gel and washed with ethyl acetate. Thereafter, the filtrate was evaporated, to give 5.4 g of the title compound.

reactant | cis-oxirane-2,3-dimethanol | 2.3 g | O1[C@H]([C@H]1CO)CO | C4H8O3
reactant | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
reactant | methanesulfonyl chloride | 4.3 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | triethylamine | 9.3 ml | C(C)N(CC)CC | C6H15N
product | Cis-2,3-bis(methanesulfonyloxymethyl)oxirane | 5.4 g | CS(=O)(=O)OC[C@@H]1O[C@@H]1COS(=O)(=O)C | C6H12O7S2
